US03953492
N-Acetyl-3-cyano-5-iodobenzenesulfonamide
A solution of 3.08 g. (10 mmoles) of 3-cyano-5-iodobenzenesulfonamide in 30 ml. of dimethylformamide is treated with 420 mg. (10 mmoles) of 57% sodium hydride emulsion. When the initial reaction subsides, the mixture is heated in a warm water bath for one hour. 2.8 Ml. (30 mmoles) of acetic anhydride is added and the solution becomes cloudy. The mixture is stirred for one hour and poured into an ice water mixture. After 30 minutes of stirring, the precipitate is filtered, washed with water, methanol and ether affording 2.97 g. (85%) of N-acetyl-3-cyano-5-iodobenzenesulfonamide melting point 249° to 251°C.

reactant | 3-cyano-5-iodobenzenesulfonamide | 10 mmoles | C(#N)C=1C=C(C=C(C1)I)S(=O)(=O)N | C7H5IN2O2S
reactant | sodium hydride | 10 mmoles | [H-].[Na+]
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | N-Acetyl-3-cyano-5-iodobenzenesulfonamide | C(C)(=O)NS(=O)(=O)C1=CC(=CC(=C1)I)C#N | C9H7IN2O3S
